US20010007873A1
H. 4-(6-Amino-pyridin-2-yl)-3-cyclobutyl-phenol
Prepared by heating 2-(2-cyclobutyl-4-benzyloxy-phenyl)-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine with NH2OH*HCl in aqueous EtOH, as described in Example 1F, as a off-white solid, in 61% yield.

reactant | 2-(2-cyclobutyl-4-benzyloxy-phenyl)-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | C1(CCC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC(=CC=C1)N1C(=CC=C1C)C | C28H28N2O
reactant | NH2OH | NO | H3NO
solvent | EtOH | CCO | C2H6O
product | 4-(6-Amino-pyridin-2-yl)-3-cyclobutyl-phenol | 61% yield | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CCC1 | C15H16N2O
